US04241079
To a stirred mixture of 2-nitro-5-propanylthioaniline (21.2 g.; 0.10 mole) in acetonitrile (50 ml.) is added portionwise carbomethoxy isothiocyanate (11.7 g.; 0.10 mole). The reaction mixture is maintained at room temperature and is filtered to remove a small amount of dark colored insoluble material. The clear filtrate was permitted to stand at room temperature for two hours and the precipitate which forms is collected by filtration, washed with cold acetonitrile and dried to yield 1-(3-carbomethoxythioureido)-2-nitro-5-propylthiobenzene (17.6 g.), m.p. 122°-125° C.

reactant | 2-nitro-5-propanylthioaniline | 0.10 mole, 21.2 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)SCCC | C9H12N2O2S
reactant | carbomethoxy isothiocyanate | 0.10 mole, 11.7 g | C(=O)(OC)N=C=S | C3H3NO2S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(3-carbomethoxythioureido)-2-nitro-5-propylthiobenzene | 17.6 g | C(=O)(OC)NC(NC1=C(C=CC(=C1)SCCC)[N+](=O)[O-])=S | C12H15N3O4S2
